US09060517B2
1.35 g of 2-(3-bromo-pyridin-2-yl)-2-methyl-propionitrile were dissolved in 6 ml of N-methylpyrrolidone. 0.82 g of 8-fluoro-3-hydroxyquinoline, 1.95 g of cesium carbonate, 0.18 g of dipivaloylmethane and 0.50 g of copper (I) chloride were added thereto followed by stirring for 23 hours at 130° C. Subsequently, the reaction mixture was cooled to room temperature and purified by silica gel column chromatography to obtain 0.46 g of 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionitrile.

reactant | 2-(3-bromo-pyridin-2-yl)-2-methyl-propionitrile | 1.35 g | BrC=1C(=NC=CC1)C(C#N)(C)C | C9H9BrN2
reactant | 8-fluoro-3-hydroxyquinoline | 0.82 g | FC=1C=CC=C2C=C(C=NC12)O | C9H6FNO
reactant | cesium carbonate | 1.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dipivaloylmethane | 0.18 g | C(C(C)(C)C)(=O)CC(C(C)(C)C)=O | C11H20O2
solvent | N-methylpyrrolidone | 6 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper (I) chloride | 0.50 g | [Cu]Cl
product | 2-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-2-methylpropionitrile | 0.46 g | FC=1C=CC=C2C=C(C=NC12)OC=1C(=NC=CC1)C(C#N)(C)C | C18H14FN3O
